US07968538B2
1-(5-Chlorobenzo[d][1,3]dioxol-7-yl)ethanamine
1-(5-Chlorobenzo[d][1,3]dioxol-7-yl)ethanone (90.0 mg, 0.45 mmol), titanium(IV) isopropoxide (255 mL, 0.90 mmol) and 2 M solution of ammonia in ethanol (1.10 mL, 2.26 mmol) were stirred at room temperature for 6 h. The reaction was cooled to 0° C. and sodium borohydride was added portionwise during 10 min. (25.5 mg, 0.67 mmol); the resultant mixture was stirred at rt for an additional 3 h. The reaction was quenched by pouring it into ammonium hydroxide (2 M, 10 mL), the precipitate that formed was filtered off and washed with ethyl acetate (5 mL×3). The organic layer was separated and the remaining aqueous layer was extracted with ethyl acetate (5 mL×2). The combined organic extracts were washed with 1 M HCl (5 mL). The acidic aqueous extracts were washed with ethyl acetate (15 mL), then treated with aqueous sodium hydroxide (2 M) to pH 10-12, and extracted with ethyl acetate (15 mL×3). The combined organic extracts were washed with brine (5 mL), dried (Na2SO4), and concentrated in vacuo to afford the desired product (50 mg, 56% yield).

reactant | 1-(5-Chlorobenzo[d][1,3]dioxol-7-yl)ethanone | 0.45 mmol, 90.0 mg | ClC1=CC2=C(OCO2)C(=C1)C(C)=O | C9H7ClO3
reactant | ammonia | N | H3N
reactant | ethanol | 2.26 mmol, 1.10 mL | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
catalyst | titanium(IV) isopropoxide | 0.90 mmol, 255 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(5-Chlorobenzo[d][1,3]dioxol-7-yl)ethanamine | 50 mg, 56% yield | ClC1=CC2=C(OCO2)C(=C1)C(C)N | C9H10ClNO2
